US05998416
Step 3: (5-Bromobenzofuran-3-yl)acetic acid ethyl ester
To a solution of triethyl phosphonoacetate (6 ml, 30.2 mmol) in dry tetrahydrofuran (200 ml) at -78° C. was added a solution of potassium bis(trimethylsilyl)amide in toluene (58 ml of a 0.5 M solution). After stirring for 2 hours at -78° C., 5-bromobenzofuran-3-one (5.5 g, 26 mmol) was added dropwise. The resulting solution was stirred 1 hour at -78° C. and overnight at room temperature. Saturated aqueous ammonium chloride solution and ethyl acetate were added. The organic layer was separated and evaporated to dryness to give the crude title compound which was purified by column chromatography on silica using chloromethane, followed by column chromatography on alumina using dichloromethane. (5-Bromobenzofuran-3-yl)acetic acid ethyl ester was obtained as a low melting solid (4.2 g, 57%), mp 38-40° C. 1H NMR 250 MHz, CDCl3) δ1.28 (3H, t, J=7 Hz), 3.65 (2H, d, J=1 Hz), 4.20 (2H, q, J=7 Hz), 7.36 (1H, s), 7.38 (1H, d, J=2 Hz), 7.63 (1H, s), 7.71 (1H, d, J=2 Hz).

reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 5-bromobenzofuran-3-one | 26 mmol, 5.5 g | BrC=1C=CC2=C(C(CO2)=O)C1 | C8H5BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (5-Bromobenzofuran-3-yl)acetic acid ethyl ester | C(C)OC(CC1=COC2=C1C=C(C=C2)Br)=O | C12H11BrO3
